US07572820B2
A stirred solution of 1,1-dimethylethyl 5-hydroxy-2-methyl-4-(trifluoromethyl)-1H-indole-3-carboxylate (62 g, 0.197 mol), DIEA (56 mL, 0.321 mol) and PhN(Tf)2 (78 g, 0.218 mol) in CH3CN (300 mL) was heated at reflux temperature for 2 h. The reaction was cooled to ambient temperature, diluted with EtOAc (1.1 L) and extracted with water (500 mL); the aqueous layer was back extracted with EtOAc (250 mL). Combined EtOAc layers were washed with 0.1 N NaOH (3×500 mL), 2 M H3PO4 (1×500 mL) and water (1×500 mL). The EtOAc layer was dried over MgSO4, filtered, concentrated and the resulting material crystallized from MTBE; filtration afforded 1,1-dimethylethyl 2-methyl-4-(trifluoromethyl)-5-{[(trifluoromethyl)-sulfonyl]oxy}-1H-indole-3-carboxylate as a white crystalline solid (66 g, 75% yield): 1H NMR (DMSO-d6) δ12.39 (s, 1H), 7.77 (d, J=9.0 Hz, 1H), 7.29 (d, J=9.0 Hz, 1H), 2.48 (s, 3H), 1.48 (s, 9H).

reactant | 1,1-dimethylethyl 5-hydroxy-2-methyl-4-(trifluoromethyl)-1H-indole-3-carboxylate | 0.197 mol, 62 g | OC=1C(=C2C(=C(NC2=CC1)C)C(=O)OC(C)(C)C)C(F)(F)F | C15H16F3NO3
reactant | DIEA | 0.321 mol, 56 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PhN(Tf)2 | 0.218 mol, 78 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH3CN | 300 mL | CC#N | C2H3N
solvent | EtOAc | 1.1 L | CCOC(=O)C | C4H8O2
product | 1,1-dimethylethyl 2-methyl-4-(trifluoromethyl)-5-{[(trifluoromethyl)-sulfonyl]oxy}-1H-indole-3-carboxylate | 66 g, 75% yield | CC=1NC2=CC=C(C(=C2C1C(=O)OC(C)(C)C)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C16H15F6NO5S
